US04631274
To a solution of benzhydryl 7-(4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (1.65 g) in a mixture of tetrahydrofuran (10 ml) and water (10 ml) were added thiourea (0.39 g) and sodium acetate (1.05 g). The mixture was stirred at ambient temperature for 2 hours and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was triturated with diisopropyl ether and collected by filtration to give benzhydryl 7-[2-methoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (syn isomer) (1.45 g).

reactant | benzhydryl 7-(4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 1.65 g | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC)=O | C29H25Cl2N3O8S
reactant | thiourea | 0.39 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 1.05 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | benzhydryl 7-[2-methoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 1.45 g | COC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C30H26ClN5O7S2
